US08034827B2
a) N-Biphenyl-2-yl-4-methoxy-benzenesulfonamide
The title compound was prepared from 2-aminobiphenyl (Aldrich) and 4-methoxy-benzenesulfonyl chloride according to the method described in Example 1b.

reactant | 2-aminobiphenyl | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | 4-methoxy-benzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-Biphenyl-2-yl-4-methoxy-benzenesulfonamide | C1(=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C19H17NO3S
